US09340538B2
Step C: Ethyl 6-((3-(5H-tetrazol-5-yl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.5 g, 1 mmol) was reacted with 3-(5H-tetrazol-5-yl)morpholine hydrochloride (0.19 g, 1 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.24 g, 42%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1 mmol, 0.5 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 3-(5H-tetrazol-5-yl)morpholine hydrochloride | 1 mmol, 0.19 g | Cl.N1=NN=NC1C1NCCOC1
product | Ethyl 6-((3-(5H-tetrazol-5-yl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.24 g, 42% | N1=NN=NC1C1COCCN1CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Br)C(=O)OCC | C22H22BrFN8O3S
